US07179823B1
To a mixture of ethyl 3-(3-ethoxy-1H-pyrazole-4-yl]propionate (300 mg), 4-(4-chloromethylphenoxymethyl)-5-methyl-2-(2-thienyl)oxazole (450 mg), and N,N-dimethylformamide (5 ml), sodium hydride (60%, oily, 70.0 mg) was added at 0° C., and then the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and a colorless oily substance was obtained from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). A mixture of the obtained colorless oily substances, 1 N aqueous sodium hydroxide solution (5 ml), tetrahydrofuran (5 ml), and ethanol (5 ml) was stirred at room temperature overnight, diluted with 1 N hydrochloric acid (5 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[3-ethoxy-1-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionic acid (460 mg, yield: 70%) was obtained. This was recrystallized from acetone-hexane. Melting point: 156–157° C.

reactant | ethyl 3-(3-ethoxy-1H-pyrazole-4-yl]propionate | 300 mg | C(C)OC1=NNC=C1CCC(=O)OCC | C10H16N2O3
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-(2-thienyl)oxazole | 450 mg | ClCC1=CC=C(OCC=2N=C(OC2C)C=2SC=CC2)C=C1 | C16H14ClNO2S
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 70.0 mg | [H-].[Na+]
solvent | water | O | H2O
product | 3-[3-ethoxy-1-[4-[5-methyl-2-(2-thienyl)-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionic acid | 460 mg, yield: 70% | C(C)OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C=1SC=CC1 | C24H25N3O5S
